US06713471B1
To a solution of lithium aluminum hydride in THF (1 M) (331 mL, 331 mmol) was added 4-nitroso-3,4-dihydro-2H-1,4-benzothiazine (59.6 g, 330.8 mmol) in 150 mL of THF at −15° C. over 2 hours under nitrogen atmosphere. After the addition, the mixture was slowly warmed to room temperature. After 4 hours, the reaction was complete (TLC, 70:30 hexanes, ethyl acetate) and hydrated sodium sulfate (approximately 150 g) was added carefully until bubbling ceased. The resulting slurry mixture was filtered and washed with THF (5×50 mL). The organic filtrate was concentrated under reduced pressure to give a red oil. This residue was taken in EtOAc (300 mL), cooled to 0° C., and treated with 1 M solution of ethereal hydrochloric acid (230 mL). The precipitate obtained was collected by filtration, washed with EtOAc (50 mL) and dried under vacuum to give 2,3-dihydro-4H-1,4-benzothiazin-4-amine hydrochloride as a white solid (48.8 g, 73%). 1H NMR (300 MHz, CDCl3) δ3.21-3.32 (m, 2H), 3.69-3.78 (m, 2H), 4.70-5.11 (br-s, 2H), 6.98-7.36 (m, 4H) ppm.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-nitroso-3,4-dihydro-2H-1,4-benzothiazine | 330.8 mmol, 59.6 g | N(=O)N1CCSC2=C1C=CC=C2 | C8H8N2OS
reactant | hydrochloric acid | 230 mL | Cl | ClH
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 331 mmol, 1 M, 331 mL | C1CCOC1 | C4H8O
product | 2,3-dihydro-4H-1,4-benzothiazin-4-amine hydrochloride | 48.8 g, 73% | Cl.S1CCN(C2=C1C=CC=C2)N | InChI=1S/C8H10N2S.ClH/c9-10-5-6-11-8-4-2-1-3-7(8)10;/h1-4H,5-6,9H2;1H
